US08470849B2
2-Cyano-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-acrylic acid methyl ester
7-azaindole-3-carboxaldehyde (3.36 g, 22.99 mmol) was taken in 60 ml of methanol and cooled to 0° C. Pipepridine (2.5 ml, 25.28 mmol) was added followed by ethyl cyanoacetate (2.23 ml, 25.27 mmol). The reaction was stirred at RT for 5 hrs then concentrated quenched with water and filtered to give a yellow solid product (4.07 g).

reactant | 7-azaindole-3-carboxaldehyde | 22.99 mmol, 3.36 g | N1C=C(C2=CC=CN=C12)C=O | C8H6N2O
reactant | ethyl cyanoacetate | 25.27 mmol, 2.23 ml | C(#N)CC(=O)OCC | C5H7NO2
solvent | methanol | 60 ml | CO | CH4O
product | 2-Cyano-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-acrylic acid methyl ester | 4.07 g | COC(C(=CC1=CNC2=NC=CC=C21)C#N)=O | C12H9N3O2
